US09353108B2
C) Ethyl 5-cyclopropyl-2-ethoxy-6-(4-fluorophenyl)nicotinate
Tris(dibenzylideneacetone)dipalladium(0) (418 mg) was added to a mixture of ethyl 5-bromo-2-ethoxy-6-(4-fluorophenyl)nicotinate (2.40 g), cyclopropylboronic acid (1.68 g), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (401 mg), a 2 M aqueous sodium carbonate solution (9.78 mL), and toluene (25 mL), and the resultant mixture was stirred at 100° C. for 2 hours in an argon atmosphere. The reaction mixture was allowed to cool to room temperature and poured to water, followed by extraction with ethyl acetate. The obtained organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (2.06 g).

reactant | ethyl 5-bromo-2-ethoxy-6-(4-fluorophenyl)nicotinate | 2.40 g | BrC=1C(=NC(=C(C(=O)OCC)C1)OCC)C1=CC=C(C=C1)F | C16H15BrFNO3
reactant | cyclopropylboronic acid | 1.68 g | C1(CC1)B(O)O | C3H7BO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 401 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2 M, 9.78 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 418 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-cyclopropyl-2-ethoxy-6-(4-fluorophenyl)nicotinate | 2.06 g | C1(CC1)C=1C(=NC(=C(C(=O)OCC)C1)OCC)C1=CC=C(C=C1)F | C19H20FNO3
